US06245773B1
6-(3,4-Difluoro-phenyl)-1-[3-(3′,6′-dihydro-[2,4′]bipyridinyl-1′-yl)-propylcarbamoyl]-4-methyl-5-methoxycarbonyl-2-oxo-1,2,3,6-tetrahydropyrimidine hydrochloride
A solution of 6-(3,4-difluorophenyl)-4-methyl-5-methoxycarbonyl-1-(4-nitrophenoxy)carbonyl-2-oxo-1,2,3,6-tetrahydro-pyrimidine (20 mg, 0.045 mmol) and 3-(3′,6′-dihydro-2′H-[2,4′]bipyridyl-1-yl)propylamine (9.7 mg, 0.045 mmol) in CH2Cl2 (10 ml) was stirred at room temperature for 3 days. The solvent was removed in vacuum. The residue was separated on preparative TLC (CHCl3/MeOH=100/15) to get the title compound (21 mg, 89% yield) as a yellow solid. Hydrochloride salt was made with HCl in ether. M.P. of the salt: 242-244° C. Calcd for C27H29N5O4F2+2.0 HCl+1.05 CHCl3+1.05 ether: C, 48.32%; H, 5.35%; N, 8.74%. Found: C, 48.10%; H, 5.13%; N, 8.72%.

reactant | 6-(3,4-difluorophenyl)-4-methyl-5-methoxycarbonyl-1-(4-nitrophenoxy)carbonyl-2-oxo-1,2,3,6-tetrahydro-pyrimidine | 0.045 mmol, 20 mg | FC=1C=C(C=CC1F)C1C(=C(NC(N1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O)C)C(=O)OC | C20H15F2N3O7
reactant | 3-(3′,6′-dihydro-2′H-[2,4′]bipyridyl-1-yl)propylamine | 0.045 mmol, 9.7 mg | N1(C(=CC=CC1)C=1CCNCC1)CCCN | C13H21N3
reactant | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-(3,4-Difluoro-phenyl)-1-[3-(3′,6′-dihydro-[2,4′]bipyridinyl-1′-yl)-propylcarbamoyl]-4-methyl-5-methoxycarbonyl-2-oxo-1,2,3,6-tetrahydropyrimidine hydrochloride | 21 mg, 89% yield | Cl.FC=1C=C(C=CC1F)C1C(=C(NC(N1C(NCCCN1CCC(=CC1)C1=NC=CC=C1)=O)=O)C)C(=O)OC | InChI=1S/C27H29F2N5O4.ClH/c1-17-23(25(35)38-2)24(19-7-8-20(28)21(29)16-19)34(27(37)32-17)26(36)31-12-5-13-33-14-9-18(10-15-33)22-6-3-4-11-30-22;/h3-4,6-9,11,16,24H,5,10,12-15H2,1-2H3,(H,31,36)(H,32,37);1H
